US04026911
In a process for the synthesis of 2-(6-carbomethoxy-cis-hexenyl)-cyclopentane-1,3,4-trione by stepwise converting 2-methyl-2-(3-butynyl)-1,3-dioxolane to 9-oxo-5-decynoic acid, esterifying that acid to methyl 9-oxo-5-decynoate, reducing the latter to 9-oxo-cis-5-decenoate, condensing the methyl 9-oxo-cis-5-decenoate with diethyl oxalate to obtain 2-(6-carbomethoxy-cis-2-hexenyl)-5-ethoxalyl-cyclopentane-1,3,4-trione as an intermediate, and hydrolyzing the intermediate to obtain 2-(6-carbomethoxy-cis-hexenyl)-cyclopentane-1,3,4-trione, the improvement which comprises:

reactant | 2-(6-carbomethoxy-cis-hexenyl)-cyclopentane-1,3,4-trione | C(=O)(OC)CCCC\C=C/C1C(CC(C1=O)=O)=O | C13H16O5
reactant | 2-methyl-2-(3-butynyl)-1,3-dioxolane | CC1(OCCO1)CCC#C | C8H12O2
reactant | 9-oxo-5-decynoic acid | O=C(CCC#CCCCC(=O)O)C | C10H14O3
reactant | methyl 9-oxo-5-decynoate | O=C(CCC#CCCCC(=O)OC)C | C11H16O3
reactant | 9-oxo-cis-5-decenoate | O=C(CC\C=C/CCCC(=O)[O-])C
reactant | methyl 9-oxo-cis-5-decenoate | O=C(CC\C=C/CCCC(=O)OC)C | C11H18O3
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2-(6-carbomethoxy-cis-2-hexenyl)-5-ethoxalyl-cyclopentane-1,3,4-trione | C(=O)(OC)CCC\C=C/CC1C(C(C(C1=O)=O)C(=O)C(=O)OCC)=O | C17H20O8
